US04958030
With stirring, 20 g of 1,1-di(methylcarbonyl)-2-(2,3-dichlorophenyl)ethene are added at 0° C. to 65 g of a 23.2% by weight solution of (p-tolylsulfonyl)methyl isocyanide prepared according to Example P1 (a). Then 28.1 g of a 30 % solution of sodium methylate in methanol are added dropwise over 3 hours. The mixture is stirred for 60 minutes at a temperature of +10° C. and then 170 ml of water are added dropwise and the product is subsequently isolated by filtration. The filter residue is recrystallised from a 1:1 mixture of methanol/ethanol and dried under vacuum, affording 8.3 g (50% of theory) of 4-methylcarbonyl-3-(2,3-dichlorophenyl)pyrrole which melts at 192°-194° C.

reactant | 1,1-di(methylcarbonyl)-2-(2,3-dichlorophenyl)ethene | 20 g | CC(=O)C(=CC1=C(C(=CC=C1)Cl)Cl)C(=O)C | C12H10Cl2O2
reactant | (p-tolylsulfonyl)methyl isocyanide | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | sodium methylate | C[O-].[Na+]
reactant | water | 170 ml | O | H2O
solvent | methanol | CO | CH4O
product | 4-methylcarbonyl-3-(2,3-dichlorophenyl)pyrrole | 8.3 g, 50% | CC(=O)C=1C(=CNC1)C1=C(C(=CC=C1)Cl)Cl | C12H9Cl2NO
